US07348337B2
Preparation of 1-[4-(1-Phenyl-1-(1-methylimidazol-4-yl)-methylene)-piperidin-1-yl]-2-(4-methoxy-7-(3-methyl-1,2,4-triazol-1-yl)-6-azaindol-3-yl)-ethane-1,2-dione.
To solution of 4-[1-phenyl-1-(1-methylimidazol-4-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester(0.0477 g, 0.0775 mmol) in CH2Cl2 (3 mL) was added TFA (0.3 mL) and the solution was allowed to stir at rt for 30 min. The solvent was then removed in vacuo and the material was dissolved in CHCl3. To this solution was added 4-methoxy-7-(3-methyl-1,2,4-triazol-1-yl)-6-azaindol-3-yl-oxoacetic acid hydrochloride salt (0.0258 g, 0.0764 mmol) and iPrNEt2 (0.024 mL, 1.38 mmol), followed by BOP—Cl (0.0271 g, 0.106 mmol). The mixture was allowed to stir at rt for 2 h and then the solvent was removed in vacuo and the residue was partitioned with H2O-EtOAc. The aqueous phase was re-extracted with EtOAc (×2) and the combined organic layers were washed (H2O, brine),dried (Na2SO4) and evaporated. The resulting residue was purified by preparative HPLC (NH4OAc) to give the title compound (0.0210 g, 50%) as a colorless solid:

reactant | 4-[1-phenyl-1-(1-methylimidazol-4-yl)methylene]piperidine-1-carboxylic acid tert-butyl ester | 0.0775 mmol, 0.0477 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1N=CN(C1)C)C1=CC=CC=C1 | C21H27N3O2
reactant | TFA | 0.3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-methoxy-7-(3-methyl-1,2,4-triazol-1-yl)-6-azaindol-3-yl-oxoacetic acid hydrochloride salt | 0.0764 mmol, 0.0258 g | Cl.COC1=C2C(=CNC2=C(N=C1)N1N=C(N=C1)C)C(C(=O)O)=O
reactant | iPrNEt2 | 1.38 mmol, 0.024 mL | C(C)(C)N(CC)CC | C7H17N
reactant | BOP—Cl | 0.106 mmol, 0.0271 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(1-Phenyl-1-(1-methylimidazol-4-yl)-methylene)-piperidin-1-yl]-2-(4-methoxy-7-(3-methyl-1,2,4-triazol-1-yl)-6-azaindol-3-yl)-ethane-1,2-dione | 0.0210 g, 50% | C1(=CC=CC=C1)C(C=1N=CN(C1)C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)N1N=C(N=C1)C)=O | C29H28N8O3
